US06548493B1
(7aS,11aR)-2-(2,4-dichlorophenyl)-10-(3-methyl-2-butenyl)-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline
The title compound was prepared by the method of Example 382 as a yellow oil (26 mg, 76%) from (7aS,11aR)-2-(2,4-dichlorophenyl)-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline (30 mg, 0.083 mmol) and 4-bromo-2-methyl-2-butene (25 mg, 0.16 mmol). 1H NMR (CDCl3, 300 MHz) δ1.68 (s, 3H), 1.81 (s, 3H), 2.12-2.23 (m, 3H), 2.26-2.42 (m, 1H), 2.55-2.70 (m, 2H), 2.78 (t, J=6.6 Hz, 2H), 3.10-3.45 (m, 6H), 3.63-3.77 (m, 2H), 5.42-5.55 (br, 1H), 6.99 (s, 1H), 7.03 (s, 1H), 7.24-7.217.29 (m, 2H), 7.47 (d, J=1.8 Hz, 1H) ppm. MS (CI, NH3): 427.1 (base, M+H).

reactant | (7aS,11aR)-2-(2,4-dichlorophenyl)-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | 0.083 mmol, 30 mg | ClC1=C(C=CC(=C1)Cl)C=1C=C2CCCN3C2=C(C1)[C@H]1[C@@H]3CCNC1 | C20H20Cl2N2
reactant | 4-bromo-2-methyl-2-butene | 0.16 mmol, 25 mg | BrCC=C(C)C | C5H9Br
reactant | NH3 | N | H3N
product | (7aS,11aR)-2-(2,4-dichlorophenyl)-10-(3-methyl-2-butenyl)-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | ClC1=C(C=CC(=C1)Cl)C=1C=C2CCCN3C2=C(C1)[C@H]1[C@@H]3CCN(C1)CC=C(C)C | C25H28Cl2N2
